US07842688B2
c) tert-Butyl 4-{4-[3-(3-chlorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate
Analogously to Method I, 0.750 g of tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate and 0.832 g of 1-(3-bromopropoxy)-3-chlorobenzene are reacted. The title compound is obtained as a slightly yellowish oil. Rf=0.30 (1:2 EtOAc-heptane); Rt=5.55.

reactant | tert-butyl 3-hydroxy-4-(4-hydroxyphenyl)piperidine-1-carboxylate | 0.750 g | OC1CN(CCC1C1=CC=C(C=C1)O)C(=O)OC(C)(C)C | C16H23NO4
reactant | 1-(3-bromopropoxy)-3-chlorobenzene | 0.832 g | BrCCCOC1=CC(=CC=C1)Cl | C9H10BrClO
product | tert-Butyl 4-{4-[3-(3-chlorophenoxy)propoxy]phenyl}-3-hydroxypiperidine-1-carboxylate | ClC=1C=C(OCCCOC2=CC=C(C=C2)C2C(CN(CC2)C(=O)OC(C)(C)C)O)C=CC1 | C25H32ClNO5
